US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-1-ethyl-6-(2,2,2-trifluoroethoxy)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (305 mg) and 10% Pd—C (36.6 mg) in EtOH (10 mL) was hydrogenated under balloon pressure at room temperature overnight. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give 1-ethyl-3-(4-hydroxyphenyl)-6-(2,2,2-trifluoroethoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one as colorless solid. To a solution of this product and 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (149 mg) in DMF (5 mL), sodium hydride (33.1 mg) was added at 100° C. and the mixture was heated at 180° C. for 30 min under microwave irradiation. The mixture was quenched with water at room temperature and extracted with AcOEt. The organic layer was separated, washed with sat. NaHCO3 aq. and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 15%-50% AcOEt in hexane) to give 1-ethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-6-(2,2,2-trifluoroethoxy)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (262 mg) as colorless solid. The solid was crystallized from AcOEt-hexane.

reactant | 3-[4-(benzyloxy)phenyl]-1-ethyl-6-(2,2,2-trifluoroethoxy)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 305 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)OCC(F)(F)F)CC)=O | C23H20F3N3O3
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd—C | 36.6 mg | [Pd] | Pd
product | 1-ethyl-3-(4-hydroxyphenyl)-6-(2,2,2-trifluoroethoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | C(C)N1C(N(C2=NC=C(C=C21)OCC(F)(F)F)C2=CC=C(C=C2)O)=O | C16H14F3N3O3
